US06872833B2
To a stirred solution of 13.0 g (35.7 mmol) (7-iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester in 200 ml dioxane were added 20.1 g (53.6 mmol) tributyl-(5,6-dihydro-[1,4]dioxin-2-yl)-stannane, 616 mg (1.07 mmol) bis(dibenzylideneacetone)palladium, 1.33 g (5.71 mmol) trifurylphosphine and 7.46 ml (53.6 mmol) triethylamine. The mixture was heated at 100° C. for 16 h and then poured onto water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/4-1/2 acetone/hexane) followed by trituration in ether afforded 5.20 g (45%) [7-(5,6-dihydro-[1,4]dioxin-2-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester as a white solid. ES-MS m/e (%): 323 (M+H+, 100).

reactant | (7-iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | 35.7 mmol, 13.0 g | COC(NC=1SC2=C(N1)C(=CC=C2I)OC)=O | C10H9IN2O3S
reactant | tributyl-(5,6-dihydro-[1,4]dioxin-2-yl)-stannane | 53.6 mmol, 20.1 g | C(CCC)[Sn](C=1OCCOC1)(CCCC)CCCC
reactant | trifurylphosphine | 5.71 mmol, 1.33 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | triethylamine | 53.6 mmol, 7.46 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 1.07 mmol, 616 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | [7-(5,6-dihydro-[1,4]dioxin-2-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester | 5.20 g, 45% | COC(NC=1SC2=C(N1)C(=CC=C2C=2OCCOC2)OC)=O | C14H14N2O5S
